US06017929
To 20 ml of methylene chloride, 1.4 g of the thus-obtained N-(4-phenylbutanoyl)-L-thioproline were added together with 445 mg of thiazolidine and 1.05 g of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride [WSC (Water Soluble Carbodiimide).HCl], and the mixture was stirred for 24 hours. The resultant liquid reaction mixture was washed with 1N hydrochloric acid, saturated saline, a saturated aqueous solution of sodium bicarbonate and saturated saline in that order and dried over anhydrous sodium sulfate. Methylene chloride was distilled off, and the resultant oily residue was subjected to column chromatography on silica gel, thereby obtaining 833 mg of the intended N-(4-phenyl-butanoyl)-L-thioprolylthiazolidine as colorless crystals from a chloroform-methanol fraction.

reactant | N-(4-phenylbutanoyl)-L-thioproline | 1.4 g | C1(=CC=CC=C1)CCCC(=O)N1[C@H](C(=O)O)CSC1 | C14H17NO3S
reactant | thiazolidine | 445 mg | S1CNCC1 | C3H7NS
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.05 g | Cl.C(C)N=C=NCCCN(C)C
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | N-(4-phenyl-butanoyl)-L-thioprolylthiazolidine | 833 mg | C1(=CC=CC=C1)CCCC(=O)N1[C@H](C(=O)C2SCCN2)CSC1 | C17H22N2O2S2
